US08389511B2
Methyl 4-hydroxy-5-nitro-2-(trifluoromethyl)benzoate
Methyl 4-hydroxy-2-(trifluoromethyl)benzoate (32.0 g) was dissolved in acetic acid (180 ml), and thereto was added conc. sulfuric acid (0.45 ml), and the mixture was heated to 65° C. Then, thereto was slowly added a 70% solution of conc. nitric acid (12.4 g) in acetic acid (60 ml) dropwise, and the mixture was stirred at 65° C. for one hour. The reaction mixture was cooled to room temperature, and poured into ice-water (500 ml), and the mixture was extracted twice with toluene (800 ml). The organic layer was washed with water and a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (15.0 g).

reactant | Methyl 4-hydroxy-2-(trifluoromethyl)benzoate | 32.0 g | OC1=CC(=C(C(=O)OC)C=C1)C(F)(F)F | C9H7F3O3
reactant | sulfuric acid | 0.45 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 12.4 g | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 180 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | Methyl 4-hydroxy-5-nitro-2-(trifluoromethyl)benzoate | 15.0 g | OC1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])C(F)(F)F | C9H6F3NO5
